US07696231B2
c) Preparation of N-(4-{[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)-3-phenylpropanamide
Into a suspension of 5-bromo-1H-indole-2,3-dione in acetic acid was added N-[4-(hydrazinocarbonyl)phenyl]-3-phenylpropanamide. After stirring at 100° C. the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 621 mg of the title compound (79%) as a yellow powder in 99.3% purity by HPLC (Rt: 4.33, gradient of 8 mm, MaxPlot detection between 230 and 400 nm).

reactant | 5-bromo-1H-indole-2,3-dione | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | N-[4-(hydrazinocarbonyl)phenyl]-3-phenylpropanamide | N(N)C(=O)C1=CC=C(C=C1)NC(CCC1=CC=CC=C1)=O | C16H17N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-{[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)-3-phenylpropanamide | 621 mg, 79% | BrC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCC1=CC=CC=C1)=O | C24H19BrN4O3
